US08048887B2
2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(5-methyl-1,2,4-oxadiazol-3-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide was prepared from 2-(4-fluorophenyl)-5-(5-(1-(N-hydroxycarbamimidoyl)cyclopropylcarbamoyl)-4-methoxy-2-methylphenyl)-N-methylbenzofuran-3-carboxamide under similar conditions as described but using PhMe as a solvent. The crude mixture was purified by preparative TLC (20×20 cm×500 um plates, 5% MeOH/CH2Cl2) to give the product, which was further purified by Shimadzu-VP preparative reverse phase HPLC using the separation method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=10 min, Stop time=12 min, Flow Rate=25 mL/min, Column: Waters-Sunfire 19×100 mm S5, Fraction Collection: 7.95-8.47 min. (UV detection at 220 nm). Analytical TLC Rf=0.38 (5% MeOH/CH2Cl2). 1H NMR (500 MHz, CD3OD) δ 7.97 (dd, J=7.93, 5.49, 2H), 7.87 (s, 1H), 7.62 (d, J=8.24, 1H), 7.58 (s, 1H), 7.33 (d, J=8.55, 1H), 7.27 (t, J=8.39, 2H), 7.11 (s, 1H), 4.05 (s, 3H), 2.96 (s, 3H), 2.54 (s, 3H), 2.36 (s, 3H), 1.60 (m, 2H), 1.45 (m, 2H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; (ES+) m/z (M+H)+=555.34, HPLC Rt=1.735 min. Analytical HPLC were performed by using Shimadzu-VP instrument with UV detection at 220 nm and 254 nm. Analytical HPLC method: Solvent A=5% MeCN-95% H2O-0.1% TFA, Solvent B=95% MeCN-5% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: Sunfire C18, 3.5 um, 4.6×150 mm, Rt=7.75 min; Column: XBridge phenyl 3.5 um, 4.6×150 mm, Rt=5.93 min. Analytical HPLC method: Solvent A=5% MeOH-95% H2O-10 mM NH4HCO3, Solvent B=95% MeOH-5% H2O-10 mM NH4HCO3, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: XBridge phenyl 3.5 um, 4.6×150 mm, Rt=11.98 min.

reactant | 2-(4-fluorophenyl)-5-(5-(1-(N-hydroxycarbamimidoyl)cyclopropylcarbamoyl)-4-methoxy-2-methylphenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C(NO)=N)=O)OC)C | C29H27FN4O5
reactant | PhMe | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(5-methyl-1,2,4-oxadiazol-3-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C2=NOC(=N2)C)=O)OC)C | C31H27FN4O5
